US05389292
a) 1-Difluoromethoxy-4-iodobenzene
100 g (0.455 mol) of 4-iodophenol and 54.6 g (1.365 mol) of sodium hydroxide are added to a mixture of 300 ml of THF and 30 ml of water. After stirring for about 1/2 hour, the mixture is evaporated in a rotary evaporator; this is repeated after the addition of 200 ml of toluene. The residue is taken up in 400 ml of THF. The mixture is cooled to 0° C., 47.1 g (0.545 mol) of chlorodifluoromethane are introduced, and the mixture is then stirred for 1 hour. It is then stirred at about +5° C. for 18 hours. The solution above the resulting slurry-like precipitate was decanted off. It was evaporated in a rotary evaporator, and the residue was chromatographed through a silica gel column, using petroleum ether as eluent.

reactant | 4-iodophenol | 0.455 mol, 100 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | sodium hydroxide | 1.365 mol, 54.6 g | [OH-].[Na+]
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | chlorodifluoromethane | 0.545 mol, 47.1 g | ClC(F)F | CHClF2
solvent | water | 30 ml | O | H2O
product | 1-Difluoromethoxy-4-iodobenzene | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
